2147-01-17 09:30:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women mod AS ,COPD, GERD, HTN, CVA, presented to ED with malaise
   and URI symptoms.  Hct 27 (baseline low 30s).  Admited to floor -
   coffee ground emesis and clots in stood.  Transferred to MICU.
   Melenotic stool.  Repeat hct 20.  Intubated for airway protection.  Had
   trauma line put in in right IJ.  GI scoped- massive clot in duodenum
   and also clot in stomach.   Was transiently on pressors.  Received 4U
   of uncrossed blood. Hct up to 29.3.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2147-1-16**] 10:20 PM
 TRAUMA LINE - START [**2147-1-17**] 01:00 AM
   Allergies:
   Penicillins
   Anaphylaxis; to
   Iodine
   swelling;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-1-16**] 11:00 PM
   Other medications:
   albuterol/atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-17**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 70 (63 - 82) bpm
   BP: 112/42(61) {74/25(41) - 192/81(109)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 100%
             Total In:
                                                                  2,154 mL
                                                                  1,141 mL
   PO:
             TF:
   IVF:
                                                                  1,029 mL
                                                                  1,141 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                    320 mL
                                                                    220 mL
   Urine:
                                                                    120 mL
                                                                    220 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,834 mL
                                                                    921 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 300 (164 - 300) mL
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/42/234/26/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 585
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   194 K/uL
   124 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.4 mEq/L
   31 mg/dL
   113 mEq/L
   145 mEq/L
   29.3 %
   8.7 K/uL
        [image002.jpg]
                            [**2147-1-16**]  11:35 PM
                            [**2147-1-17**]  03:04 AM
                            [**2147-1-17**]  03:32 AM
   WBC
   8.7
   Hct
   31.1
   29.3
   Plt
   194
   Cr
   0.6
   TropT
   0.02
   TCO2
   26
   Glucose
   124
   Other labs: PT / PTT / INR:15.2/41.5/1.3, CK / CKMB /
   Troponin-T:34//0.02, Fibrinogen:243 mg/dL, Lactic Acid:0.8 mmol/L,
   Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   To get repeat EGD.  Continue IV PPI
   Follow Hct, coags closely.  Replete as needed.
   Respiratory failure:  can be extubated depending on how procedure goes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-1-17**] 12:00 AM
   Trauma line - [**2147-1-17**] 01:00 AM
   14 Gauge - [**2147-1-17**] 02:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2147-01-18 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2147-1-17**] 09:00 AM
   - GI performed repeat EGD; 3 ulcers of the duodenal bulb. Recommended
   ordering h. pylori, transfuse to keep hct >30, tid hct
   - hct 27 <- 28 <- 29; however, also has [**Doctor Last Name **]-antibody so ?hemolysis
 INVASIVE VENTILATION - STOP [**2147-1-17**] 12:00 PM
   - Started folic acid, vit c, b12, folate
   - should re-start home meds post-extubation
   -          1 unit PRBC, 250cc NS
   -          into Afib 120-130s at 8 am, minimally responded to Metop 5mg
   IV x 3, then was given Dilt 10mg IV once to which pt responded with HR
   in 80-90s.
   -          pt continues to have [**Year (4 digits) 7452**]
   Allergies:
   Penicillins
   Anaphylaxis; to
   Iodine
   swelling;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2147-1-17**] 09:00 AM
   Fentanyl - [**2147-1-17**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-18**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (96.9
   HR: 94 (69 - 96) bpm
   BP: 112/51(62) {57/26(42) - 127/103(106)} mmHg
   RR: 25 (0 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,890 mL
                                                                    326 mL
   PO:
                                                                     30 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,754 mL
                                                                    120 mL
   Blood products:
                                                                    107 mL
                                                                    176 mL
   Total out:
                                                                    690 mL
                                                                    200 mL
   Urine:
                                                                    690 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,200 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 0%
   RSBI: 71
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 10.1 L/min
   Physical Examination
   General: pale, weak, anxious
   HEENT: wears dentures, OP clear, nares clear
   Lungs: CTA b/l anteriorly
   Cardio: RR, VI/IV SEM at RUSB
   Abd: soft, nt, nd, + BS
   Extremities: no [**Location (un) **], symmetric
   Skin: pale, clammy, no mottling
   Neuro: AA, Ox3, moving all extremities, CN II - XII intact
   Labs / Radiology
   152 K/uL
   10.1 g/dL
   104 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   16 mg/dL
   110 mEq/L
   143 mEq/L
   28.9 %
   5.9 K/uL
        [image002.jpg]
                            [**2147-1-16**]  11:35 PM
                            [**2147-1-17**]  03:04 AM
                            [**2147-1-17**]  03:32 AM
                            [**2147-1-17**]  09:04 AM
                            [**2147-1-17**]  02:41 PM
                            [**2147-1-17**]  09:57 PM
                            [**2147-1-18**]  04:18 AM
   WBC
   8.7
   9.2
   8.9
   6.1
   5.9
   Hct
   31.1
   29.3
   29.4
   28.4
   27.1
   28.9
   Plt
   194
   163
   152
   167
   152
   Cr
   0.6
   0.6
   TropT
   0.02
   TCO2
   26
   Glucose
   124
   104
   Other labs: PT / PTT / INR:13.2/29.9/1.1, Ca++:7.7 mg/dL, Mg++:2.1
   mg/dL, PO4:3.7 mg/dL
   Imaging: .
   Microbiology: [**1-17**] - bcx pending, [**1-17**] H pylori pending
   Assessment and Plan
 ANXIETY
 INEFFECTIVE COPING
 GASTROINTESTINAL BLEED, UPPER ([**Month/Year (2) **], GI BLEED, GIB)
   78 yoF with h/o moderate AS, HTN, GERD and distant PUD presenting with
   URI sx for 1+ weeks as well as UGIB.
   .
   #. A fib: diff incl MI, PE, infection, hyperthyroid, anxiety,
   hypovolemia (from acute GI bleeding).  Pt may be having active GI
   bleeding, continues to have [**Month/Year (2) 7452**] this AM and is now in new A fib.
   --  transfuse 1U pRBCs (Hct 28.9 this AM), consider NS bolus in the
   meantime
   --  contact GI about possible active bleeding and f/u their recs
   regarding rescoping
   --  pt responded to Dilt so will use it PRN
   -- pt has h/o low TSH, will check TSH and fT4
   .
   #. UGIB: massive dark colored mass-like lesion near duodenal bulb,
   stomach clear on EGD; has received 4 units of unmatched blood on
   arrival with appropriate bump in Hct from 20 --> 31+.  GI re-scoped
   patient who and saw 3 ulcers in the duodenal bulb without active
   bleed.  No further interventions were taken, and recommendations were
   left to obtain H. pylori and continue PPI, and transfuse for hct <30.
   -- continue PPI gtt
   -- Hct is 28.9 this AM, will transfuse 1U pRBCs and recheck Hct
   -- pt continues to have [**Last Name (LF) 7452**], [**First Name3 (LF) **] call GI to see pt soon
   -- pt has right IJ and 2 PIVs in place
   -- will shoot for SBP's > 95-100 (will not go by MAP's given large
   pulse pressure with AS)
   -- surgery and IR aware if bleeding worsens
   -- continue NPO except meds
   .
   #. s/p intubation now extubated:
   -- no indication of PNA
   -- currently satting well on NC
   -- continue Albuterol/Ipratropium nebs PRN, Fluticasone nasal spray
   daily, Afrin PRN
   .
   #. URI SX: could not clarify with patient upon admission due to acuity;
   likely sx were [**2-28**] GI sx and bleed; PCP had started on Bactrim with c/f
   sinusitis
   -- monitor for temperature, leukocytosis
   -- will hold on antibiotics for now as hypotension and slight WBC
   likely [**2-28**] GIB and not sepsis/infection, but low threshold to add abx
   .
   #. HTN:
   -- on Amlodipine 10mg daily, Lisinopril 40mg daily, Isosorbide
   Mononitrate 30mg daily and Atenelol 100mg [**Hospital1 7**] at home, but holding them
   bc of bleed
   .
   #. HYPERLIPIDEMIA:
   -- on Simvastatin 20mg daily and Ezetimibe 10mg daily at home,
   currently held bc NPO
   .
   #. DEPRESSION:
   --  on Fluoxetine daily  and Valium PRN at home, currently held bc NPO
   --  will use Ativan IV PRN for anxiety
   .
   #. ASTHMA, COPD:
   -- continue Albuterol/Ipratropium nebs PRN
   .
   #. FEN: NPO; lytes repleted PRN
   .
   #. PPX:
   -- no bowel regimen for now; PPI gtt per above; no SQH, on pneumoboots
   .
   #. ACCESS: right IJ, two 20 gauge PIVs
   .
   #. CODE: full (confirmed with daughter on arrival)
   .
   #. DISPO: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-1-17**] 12:00 AM
   Trauma line - [**2147-1-17**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-01-18 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women with  UGIB due to PUD in duodenum.  Patient with Hct
   drifting down yesterday.  This morning has been tachycardic in AF to
   120s.  Responded to lopressor and then dilt.
   24 Hour Events:
 ENDOSCOPY - At [**2147-1-17**] 09:00 AM
 INVASIVE VENTILATION - STOP [**2147-1-17**] 12:00 PM
   Allergies:
   Penicillins
   Anaphylaxis; to
   Iodine
   swelling;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Metoprolol - [**2147-1-18**] 09:15 AM
   Diltiazem - [**2147-1-18**] 10:20 AM
   Other medications:
   FESO4
   folate
   thiamine
   vit b12
   flovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-18**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 121 (71 - 128) bpm
   BP: 121/62(77) {57/26(42) - 140/103(106)} mmHg
   RR: 22 (0 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  1,892 mL
                                                                    422 mL
   PO:
                                                                     30 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,755 mL
                                                                    216 mL
   Blood products:
                                                                    107 mL
                                                                    176 mL
   Total out:
                                                                    690 mL
                                                                    200 mL
   Urine:
                                                                    690 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,202 mL
                                                                    222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   152 K/uL
   104 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   16 mg/dL
   110 mEq/L
   143 mEq/L
   28.9 %
   5.9 K/uL
        [image002.jpg]
                            [**2147-1-16**]  11:35 PM
                            [**2147-1-17**]  03:04 AM
                            [**2147-1-17**]  03:32 AM
                            [**2147-1-17**]  09:04 AM
                            [**2147-1-17**]  02:41 PM
                            [**2147-1-17**]  09:57 PM
                            [**2147-1-18**]  04:18 AM
   WBC
   8.7
   9.2
   8.9
   6.1
   5.9
   Hct
   31.1
   29.3
   29.4
   28.4
   27.1
   28.9
   Plt
   194
   163
   152
   167
   152
   Cr
   0.6
   0.6
   TropT
   0.02
   TCO2
   26
   Glucose
   124
   104
   Other labs: PT / PTT / INR:13.2/29.9/1.1, CK / CKMB /
   Troponin-T:34//0.02, Fibrinogen:243 mg/dL, Lactic Acid:0.8 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ANXIETY
 INEFFECTIVE COPING
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   More melena this morning with AF and tachycardia.  Concerning for
   further bleeding.  Will give 2U of PRBCs.  Will notify
   gastroenterology.
   AFib:  could be due to hyperthyroid or anxiety, but will first r/o that
   she is not having a significant bleed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-1-17**] 12:00 AM
   Trauma line - [**2147-1-17**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2147-01-19 10:05:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women with GIB.  Went to IR which was able to control bleed and
   has had no further melena.
   24 Hour Events:
 ENDOSCOPY - At [**2147-1-18**] 12:00 PM
   Allergies:
   Penicillins
   Anaphylaxis; to
   Iodine
   swelling;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Diltiazem - [**2147-1-18**] 10:20 AM
   Midazolam (Versed) - [**2147-1-18**] 12:45 PM
   Famotidine (Pepcid) - [**2147-1-18**] 05:00 PM
   Fentanyl - [**2147-1-18**] 08:45 PM
   Morphine Sulfate - [**2147-1-18**] 09:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-19**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 107 (84 - 127) bpm
   BP: 151/118(126) {66/41(55) - 151/118(126)} mmHg
   RR: 27 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.4 kg (admission): 60.3 kg
           Total In:
                                                                  3,498 mL
                                                                    546 mL
   PO:
                                                                     30 mL
           TF:
   IVF:
                                                                  1,581 mL
                                                                    196 mL
   Blood products:
                                                                  1,887 mL
                                                                    350 mL
   Total out:
                                                                    915 mL
                                                                    510 mL
   Urine:
                                                                    915 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,583 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   158 K/uL
   140 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   17 mg/dL
   106 mEq/L
   141 mEq/L
   30.9 %
   8.2 K/uL
        [image002.jpg]
                            [**2147-1-17**]  09:04 AM
                            [**2147-1-17**]  02:41 PM
                            [**2147-1-17**]  09:57 PM
                            [**2147-1-18**]  04:18 AM
                            [**2147-1-18**]  12:15 PM
                            [**2147-1-18**]  04:15 PM
                            [**2147-1-18**]  08:58 PM
                            [**2147-1-19**]  12:54 AM
                            [**2147-1-19**]  03:56 AM
                            [**2147-1-19**]  06:28 AM
   WBC
   9.2
   8.9
   6.1
   5.9
   11.1
   12.2
   13.2
   10.8
   8.2
   Hct
   29.4
   28.4
   27.1
   28.9
   23.8
   33.8
   31.0
   29.4
   30.9
   Plt
   163
   152
   167
   152
   192
   142
   70
   158
   158
   Cr
   0.6
   0.5
   Glucose
   104
   140
   Other labs: PT / PTT / INR:13.9/27.9/1.2, CK / CKMB /
   Troponin-T:34//0.02, Fibrinogen:243 mg/dL, Lactic Acid:0.8 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 ANXIETY
 INEFFECTIVE COPING
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   IR procedure seems to have controlled bleed.  OR would be high risk.
   Continue to transfuse Hct>27, plts >50, INR<2, fibrinogen >100.
   AFib:  Intermittent sinus - seems well controlled.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-1-17**] 12:00 AM
   Trauma line - [**2147-1-17**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill